US04822780
A suspension of 0.40 g of 4-diethoxyphosphinylmethyl-N-methyl-N-phenylbenzamide and 0.56 g of phosphorus pentasulfide in a mixed solvent of 20 ml of dry benzene and 5 ml of dry pyridine was refluxed for 7 hours. After being allowed to cool to room temperature, the reaction mixture was poured into 50 ml of ice water. The water layer was made acidic with 4N hydrochloric acid and extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was subjected to silica gel column chromatography (eluent; benzene:ethyl acetate=1:1) to give 4-diethoxyphosphinylmethyl-N-methyl-N-phenylthiobenzamide. Recrystallization from benzene-n-hexane gave 0.23 g of yellow needles.

reactant | 4-diethoxyphosphinylmethyl-N-methyl-N-phenylbenzamide | 0.40 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)N(C2=CC=CC=C2)C)C=C1 | C19H24NO4P
reactant | phosphorus pentasulfide | 0.56 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | water | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 4-diethoxyphosphinylmethyl-N-methyl-N-phenylthiobenzamide | C(C)OP(=O)(OCC)CC1=CC=C(C(=S)N(C2=CC=CC=C2)C)C=C1 | C19H24NO3PS
